US09130244B2
7.69 g (60 mmol) of 2-propenyl 2-hydroxypropionate and 7.29 g (72 mmol) of triethylamine were dissolved in 130 ml of toluene, and 7.17 g (66 mmol) of trimethylsilyl chloride was dropwise added thereto at 5 to 10° C., taking 10 minutes. This was reacted at room temperature for 4 hours, the reaction liquid was washed twice with water, and the organic layer was separated and concentrated. The concentrate was purified through reduced pressure distillation to give 6.24 g (yield 52%) of 2-propenyl 2-(trimethylsilyloxy)propionate.

reactant | 2-propenyl 2-hydroxypropionate | 60 mmol, 7.69 g | OC(C(=O)OCC=C)C | C6H10O3
reactant | triethylamine | 72 mmol, 7.29 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 66 mmol, 7.17 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | 2-propenyl 2-(trimethylsilyloxy)propionate | 6.24 g, yield 52% | C[Si](OC(C(=O)OCC=C)C)(C)C | C9H18O3Si
